US09328096B2
(3-(benzyloxy)phenyl)hydrazine hydrochloride
3-(benzyloxy)aniline (5 g, 25.09 mmol) was added dropwise to 6M HCl (100 mL) at 4° C. A solution of sodium nitrite (3.46 g, 50.19 mmol) in water (50 mL) was added dropwise over 10 minutes and the reaction was stirred for 1 hour. A solution of tin (II) chloride (17.53 g, 77.7 mmol) in 6M HCl (150 mL) was added dropwise over 20 minutes, maintaining the internal temperature below 7° C. The suspension was stirred for 2 hours before neutralising then basifying the reaction to pH>12 using sodium hydroxide. The aqueous layer was extracted with diethyl ether (3×150 mL), the combined organic layers were dried over sodium sulfate and concentrated in vacuo. The yellow oil was dissolved in HCl in methanol and concentrated in vacuo. The resulting solid was triturated with diethylether, filtered and dried in vacuo to afford the title compound as purple solid (5.22 g, 83%).

reactant | 3-(benzyloxy)aniline | 25.09 mmol, 5 g | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
reactant | sodium nitrite | 50.19 mmol, 3.46 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride | 77.7 mmol, 17.53 g | [Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | HCl | 6M, 150 mL | Cl | ClH
solvent | HCl | 6M, 100 mL | Cl | ClH
product | (3-(benzyloxy)phenyl)hydrazine hydrochloride | 5.22 g, 83% | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)NN | InChI=1S/C13H14N2O.ClH/c14-15-12-7-4-8-13(9-12)16-10-11-5-2-1-3-6-11;/h1-9,15H,10,14H2;1H
